US07960369B2
3-(4-((2′-cyanobiphenyl-3-yl)methoxy)phenyl)propanoic acid
The title compound was synthesized in the same manner as in Example 272 from methyl 3-[4-[(3-bromobenzyl)oxy]phenyl]propanoate and 2-cyanophenylboronic acid. colorless crystals (yield 6%). MS (APCI−): 356 (M−H).

reactant | methyl 3-[4-[(3-bromobenzyl)oxy]phenyl]propanoate | BrC=1C=C(COC2=CC=C(C=C2)CCC(=O)OC)C=CC1 | C17H17BrO3
reactant | 2-cyanophenylboronic acid | C(#N)C1=C(C=CC=C1)B(O)O | C7H6BNO2
product | 3-(4-((2′-cyanobiphenyl-3-yl)methoxy)phenyl)propanoic acid | C(#N)C1=C(C=CC=C1)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)O | C23H19NO3
